US08053438B2
STEP 2: 4-(3-(4-(BENZO[D]THIAZOL-2-YLAMINO)PHENOXY)PYRAZIN-2-YL)TETRAHYDRO-2H-PYRAN-4-CARBONITRILE
To a solution of 4-(benzo[d]thiazol-2-ylamino)phenol (0.097 g, 0.402 mmol) and 4-(3-chloropyrazin-2-yl)tetrahydro-2H-pyran-4-carbonitrile (0.09 g, 0.402 mmol) in DMSO (1 mL) was added cesium carbonate (0.262 g, 0.805 mmol). The resulting mixture was heated to 60° C. overnight. Purification by Biotage (0-100% EtOAc/hexane) provided product. MS (ESI, pos. ion) m/z: 430.0 (M+1). IC50 (uM) +++++.

reactant | 4-(benzo[d]thiazol-2-ylamino)phenol | 0.402 mmol, 0.097 g | S1C(=NC2=C1C=CC=C2)NC2=CC=C(C=C2)O | C13H10N2OS
reactant | 4-(3-chloropyrazin-2-yl)tetrahydro-2H-pyran-4-carbonitrile | 0.402 mmol, 0.09 g | ClC=1C(=NC=CN1)C1(CCOCC1)C#N | C10H10ClN3O
reactant | cesium carbonate | 0.805 mmol, 0.262 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 4-(3-(4-(BENZO[D]THIAZOL-2-YLAMINO)PHENOXY)PYRAZIN-2-YL)TETRAHYDRO-2H-PYRAN-4-CARBONITRILE | S1C(=NC2=C1C=CC=C2)NC2=CC=C(OC=1C(=NC=CN1)C1(CCOCC1)C#N)C=C2 | C23H19N5O2S
